US06949542B2
[2-{3-[3-(6-Methoxy-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example J6) (296 mg, 0.79 mmol) and 3-[3-(6-methoxy-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K10) (289 mg, 0.88 mmol) according to the general procedure M. Obtained as an orange foam (402 mg, 81%).

reactant | [2-amino-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 0.79 mmol, 296 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)C(F)(F)F)N)=O | C14H16F6N2O3
reactant | 3-[3-(6-methoxy-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.88 mmol, 289 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)OC)=O | C19H21NO4
product | [2-{3-[3-(6-Methoxy-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)OC)=O)=O | C29H27F6N3O6
